US20010044538A1
3-Hydroxypicolinic acid (12.5 g, 900 mmol) was suspended in a mixture of ethanol (300 ml) and benzene (100 ml). Sulfuric acid (5 ml) was added and the reaction mixture was heated at reflux with azeotropic removal of water via Dean Stark trap. After the reaction was complete, the organics were removed in vacuo. The residue was dissolved in water, basified with sodium carbonate and extracted with ethyl acetate. The ethyl acetate layer was dried over magnesium sulfate, concentrated in vacuo to give ethyl 3-hydroxypicolinate (15 g).

reactant | 3-Hydroxypicolinic acid | 900 mmol, 12.5 g | OC=1C(=NC=CC1)C(=O)O | C6H5NO3
reactant | Sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
reactant | ethanol | 300 ml | C(C)O | C2H6O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | ethyl 3-hydroxypicolinate | 15 g | OC=1C(=NC=CC1)C(=O)OCC | C8H9NO3
